US07173024B2
BOC-2(S)-(cyclopentanecarbonyl)pyrrolidine
22.5 ml (45 mmol) 2 M cyclopentylmagnesium chloride (diethyl ether) and 3.0 g (15 mmol) BOC-L-prolinal were allowed to react at −80° C. for 30 min according to procedure F. Yield of crude product 3.37 g. The product was purified with a silica column using 0–4% methanol in dichloromethane as eluent. Yield 3.10 g (11.5 mmol, 77%). The product was oxidized to the corresponding ketone according to procedure G. Yield of crude product 3.12 g. The product was purified with a silica column using 16% ethyl acetate in petroleum ether as eluent. Yield 1.3 g (4.9 mmol, 42%).

reactant | cyclopentylmagnesium chloride | 45 mmol, 2 M, 22.5 ml | C1(CCCC1)[Mg]Cl
reactant | BOC-L-prolinal | 15 mmol, 3.0 g | C(=O)(OC(C)(C)C)N1[C@H](C=O)CCC1 | C10H17NO3
product | BOC-2(S)-(cyclopentanecarbonyl)pyrrolidine | C(=O)(OC(C)(C)C)N1[C@@H](CCC1)C(=O)C1CCCC1 | C15H25NO3
